* OPA548 Macromodel   

*  REV. A        Created Sept 1997 by T. Larson

*

* 1 = NON-INVERTING INPUT

* 2 = INVERTING INPUT

* 3 = CURRENT LIMIT

* 4 = NEGATIVE RAIL

* 5 = POSITIVE RAIL

* 6 = OUTPUT

* 7 = ENABLE/STATUS

.SUBCKT OPA548 1   2   3   4   5   6   7  

R1       17  13    13K

R2       17  14    13K

RIN2     12  2     1K

RIN5     15  4     1K

RIN6     16  4     1K

RBLEED   26  4     10MEG 

GAIN     26  4   16  15   1.6M

IBIAS    19  30   300UA

R3       5   20    2K

R4       5   23    6K

QGAIN    25  26  4    NMAX 1

CCOMP    27  25    15P

R5       5   24    667

EBUF     22  5   21  5    1

R7       7   4     250K

QHIGH    5   48  49   NMIN 960

QHDRV    5   45  47   NMIN 60

R47      47  48    14

R49      49  40    0.4

QLDRV    5   35  37   NMIN 60

R37      37  38    35

R39      39  4     0.4

GLOWER   4   31  30  25   0.5M

CCOUT    35  36    11P

RCOUT    36  40    1680

RCOMP    26  27    1000

D34      31  34   DIODE 100

RBL      35  4     10K

Q33      33  33  40   NMIN 5

Q30      30  30  33   NMIN 5

E32      32  4   30  40   1.55

D32      32  31   DIODE 100

Q3       19  19  20   LAT5 3

RB45     25  45    100

V475     28  4    DC 4.75

RCL      3   28    13750

RB35     34  35    100

GLCL     42  4   39  41   .05

D42      35  42   DIODE 100

D43      42  43   DIODE 100

GHCL     52  4   49  51   .05

D52      45  52   DIODE 100

D53      52  53   DIODE 100

D25      6   25   DIODE 100

DIN2     2   10   ZENERD 1

DIN1     1   10   ZENERD 1

HLREF    41  4    V475 -6000

HHREF    51  40   V475 -6000

SW2      6   40  7   4    VSM

D7       54  7    DIODE 100

VES      55  4    DC 3.5

D55      54  55   DIODE 100

SW1      21  19  7   4    VSM

R21      5   21    100K

C40      30  40    150P

ELCL     43  4   37  4    1

EHCL     53  4   47  4    1

VCM      18  17   DC 1.3

VCLMP    29  4    DC 1

RIN1     1   11    1K

QIN2     16  12  14   PSUB 1

RSHTDWN  6   25    25K

R48      48  40    2400

R38      38  4     1200

CIN1     4   1     3P

CIN2     2   4     3P

CIN3     2   1     2.5P

DP       4   5    DIODE 100

DPU1     1   5    DIODE 100

DPL1     4   1    DIODE 100

DPL2     4   2    DIODE 100

DPU2     2   5    DIODE 100

DPU3     3   5    DIODE 100

DPL3     4   3    DIODE 100

DPL6     4   6    DIODE 100

DPU6     6   5    DIODE 100

DPU7     7   5    DIODE 100

DPL7     4   7    DIODE 100

QIN1     15  11  13   PSUB 1

Q4       18  22  23   LAT5 1

Q5       25  22  24   LAT5 9

DC6      29  6    DIODE 100

DC26     29  26   DIODE 100

QLOW     40  38  39   NMIN 960

IEO      5   54   70UA

ILEAK    6   4    3M

.ENDS



.MODEL  NMIN NPN IS=6E-16 BF=150 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10 

+ RC=600

.MODEL  NMAX NPN IS=6E-16 BF=3000 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10 

+ RC=1000

.MODEL  ZENERD D IS=6E-16 CJO=1E-18 RS=1 BV=5.2

.MODEL  DIODE D IS=6E-16 CJO=1E-18 RS=1 BV=80

.MODEL  LAT5 PNP IS=4E-15 BF=80 VAF=80 CJE=1E-13 CJC=6E-13 TF=3.5E-8 RC=1200

.MODEL  PSUB PNP IS=6E-16 BF=360 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10 

+ RC=1200

.MODEL  VSM VSWITCH(RON=.02 ROFF=5E5 VON=2.3  VOFF=1.5)



.ENDS OPA548
